US06066443
Intermediate A: 5-(Pyrrol-1-yl)-2-methylbenzothiazole:
5-Amino-2-methylbenzothiazole (30.0 g, 0.203 mol) and 2,5-dimethoxytetrahydrofuran (27.0 g, 0.204 mol) were combined with 90 mL of acetic acid and the solution was heated at reflux for 1 hr. The mixture was evaporated to a dark slurry and purified by column chromatography. This afforded 16.3 g (39% yield) of product, m.p. 91-96° C.

reactant | 5-Amino-2-methylbenzothiazole | 0.203 mol, 30.0 g | NC=1C=CC2=C(N=C(S2)C)C1 | C8H8N2S
reactant | 2,5-dimethoxytetrahydrofuran | 0.204 mol, 27.0 g | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
product | 5-(Pyrrol-1-yl)-2-methylbenzothiazole | 16.3 g, 39% yield | N1(C=CC=C1)C=1C=CC2=C(N=C(S2)C)C1 | C12H10N2S
